US03950329
To a solution of 0.461 (0.82 mmole) of 2,2,2-trichloroethyl 3-bromoethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide in 20 ml of 1:1 benzene-dimethylsulfoxide (DMSO) is added 0.150 ml (8.2 mmoles) of water and the mixture is stirred at 25° for 7 days. Then the mixture is poured into 100 ml of H2O and extracted with ethyl acetate. The ethyl acetate is dried (MgSO4) and evaporated in vacuo to yield 2,2,2-trichloroethyl 3-hydroxymethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide, which can be purified by recrystallization from methanol.

reactant | 2,2,2-trichloroethyl 3-bromoethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | BrCCC=1CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C19H18BrCl3N2O5S
reactant | DMSO | CS(=O)C | C2H6OS
reactant | water | 8.2 mmoles, 0.150 ml | O | H2O
reactant | H2O | 100 ml | O | H2O
solvent | benzene dimethylsulfoxide | 20 ml | C1=CC=CC=C1.CS(=O)C
product | 2,2,2-trichloroethyl 3-hydroxymethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | OCC=1CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C18H17Cl3N2O6S
